US05723497
A 100-ml flask equipped with a stirrer was charged with 13.6 g (60 mmol) of 10-undecenyl glycidyl ether, 5.8 g (50 mmol) of butyldimethylsilane and 4 mg (0.01 mmol) of H2PtCl6. The contents were stirred at 60° C. for 24 hours. The resultant reaction mixture was distilled under reduced pressure (145°-154° C./6×10-3 Torr), thereby obtaining 14.15 g (yield: 82.6%) of 11-(butyldimethylsilyl)undecyl glycidyl ether.

reactant | 10-undecenyl glycidyl ether | 60 mmol, 13.6 g | C(C1CO1)OCCCCCCCCCC=C | C14H26O2
reactant | butyldimethylsilane | 50 mmol, 5.8 g | C(CCC)[SiH](C)C | C6H16Si
product | 11-(butyldimethylsilyl)undecyl glycidyl ether | 14.15 g, yield: 82.6% | C(C1CO1)OCCCCCCCCCCC[Si](C)(C)CCCC | C20H42O2Si
